US06953857B2
(ii) 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid methyl ester
0.98 g (3.02 mmol) of 3-[(2,4-Dichloro-benzylamino)-methyl]-benzoic acid methyl ester was dissolved in 20 ml of dioxan and treated with 0.659 g (3.02 mmol) of di-tert-butyl pyrocarbonate. The solution was stirred for 16 h at RT. The solvent was removed under reduced pressure.

reactant | 3-[(2,4-Dichloro-benzylamino)-methyl]-benzoic acid methyl ester | 3.02 mmol, 0.98 g | COC(C1=CC(=CC=C1)CNCC1=C(C=C(C=C1)Cl)Cl)=O | C16H15Cl2NO2
reactant | di-tert-butyl pyrocarbonate | 3.02 mmol, 0.659 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-{[tert-Butoxycarbonyl-(2,4-dichloro-benzyl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN(CC1=C(C=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C)=O | C21H23Cl2NO4
